US09127164B2
(4) 3,6-Diacetamidyl-9-aminoacridine
3-Acetamidyl-6,9-diaminoacridine (10 mg, 0.048 mmol) was dissolved in acetic acid (5 mL) and heated at reflux under a nitrogen atmosphere. Acetic anhydride (4.7 μL, 0.05 mmol) was added and reflux was continued for 10 min. On cooling to room temperature, the solution was concentrated to dryness and the residue was dissolved in water (10 mL) and washed with DCM (3×10 mL). The aqueous layer was lyophilised to give a brown solid.

reactant | 3-Acetamidyl-6,9-diaminoacridine | 0.048 mmol, 10 mg | C(C)(=O)NC=1C=CC2=C(C3=CC=C(C=C3N=C2C1)N)N | C15H14N4O
reactant | Acetic anhydride | 0.05 mmol, 4.7 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3,6-Diacetamidyl-9-aminoacridine | C(C)(=O)NC=1C=CC2=C(C3=CC=C(C=C3N=C2C1)NC(C)=O)N | C17H16N4O2
